US04153729
(b) S-benzylhomocysteinol
To a suspension of 43 g of LiAlH4 (4 times the theoretical amount) in 1000 ml of anhydrous ether brought to reflux under mechanical agitation, there is added a solution of 144 g of the ethyl ester of the S-benzylhomocysteine in 600 ml of anhydrous ether at a speed such that the reaction mixture continues to boil. After the end of the addition, refluxing is continued for 1 hour.

reactant | LiAlH4 | 43 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | S-benzylhomocysteine | C(C1=CC=CC=C1)SCC[C@H](N)C(=O)O | C11H15NO2S
solvent | ether | 1000 ml | CCOCC | C4H10O
solvent | ether | 600 ml | CCOCC | C4H10O
product | S-benzylhomocysteinol | C(C1=CC=CC=C1)SCC[C@H](N)CO | C11H17NOS
